### PR TITLE
Introduce vandermode matrix

### PR DESCRIPTION
**Pull request by yoshihiro503**
##### Motivation for this change

Introduced Vandermonde Matrix and these determinants.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Dear @yoshihiro503, thank you for your contribution, Vandermonde matrices are indeed an important object to have in mathcomp.

**Comment by proux01** [comment]
According to WP: https://en.wikipedia.org/wiki/Vandermonde_matrix the Vandermonde matrix seems to be the transpose, but they also say "Some authors define the Vandermonde matrix as the [transpose](https://en.wikipedia.org/wiki/Transpose) of the above matrix". I don't know which one we want here?

**Comment by CohenCyril** [comment]
> According to WP: https://en.wikipedia.org/wiki/Vandermonde_matrix the Vandermonde matrix seems to be the transpose, but they also say "Some authors define the Vandermonde matrix as the [transpose](https://en.wikipedia.org/wiki/Transpose) of the above matrix". I don't know which one we want here?

We do want the transpose of the "normal one" (i.e. the one that is defined here) due to the specific conventions of the mathcomp library wrt that.

**Comment by proux01** [comment]
I don't get those specific conventions but I definitely trust you.

File: mathcomp/algebra/matrix.v [hunk 1]
```diff
@@ -4581,3 +4581,264 @@ Lemma mul_mxdiag_mxblock {R : ringType} {p q : nat}
...
+  rewrite big_mkord; apply/eq_bigr => i _; congr (a ``_ _ - _).
+  by apply/val_inj => /=; rewrite inordK // ltnS.
+apply eq_bigr => i _.
+rewrite [in RHS]big_mkcond /= [in RHS]big_ord_recl ltn0 mul1r big_add1.
+rewrite big_mkord [in LHS]big_mkcond /=; apply eq_bigr => j _; rewrite /bump.
+rewrite 2!leq0n 2!add1n ltnS; case: ifPn => // ij.
+by congr (a ``_ _ - a ``_ _); apply val_inj => /=; rewrite inordK // ltnS.
+Qed.
+
+End vandermonde.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/matrix.v:4844]: > Was there a particular reason why the dimensions were not the same?

@affeldt-aist ?

[the remark this answers is not in the document]
Comment (affeldt-aist) [reply mathcomp/algebra/matrix.v:4844]: It looks like infotheo is using a non-square version of the Vandermonde matrix to define generalized Reed-Solomon codes but I do not have the reference material at hand right now.

[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/matrix.v:4844]: I restored the non-square definition

File: mathcomp/algebra/matrix.v [hunk 2]
```diff
@@ -172,6 +172,8 @@ From mathcomp Require Import div prime binomial ssralg finalg zmodp countalg.
 (* - The determinant is a multilinear alternate form.                         *)
 (* - The Laplace determinant expansion formulas: expand_det_[row|col].        *)
 (* - The Cramer rule : mul_mx_adj & mul_adj_mx.                               *)
+(* Vandermonde m a == a 'M[R]_(m, n) matrix whose i-th row is a geometric     *)
+(*                    progression of a[i].                                    *)
```
Comment (CohenCyril) [inline mathcomp/algebra/matrix.v:176]:
```suggestion
(* Vandermonde m a == the 'M[R]_(m, n) Vandermonde matrix, given a : 'rV_n    *)
(*                    /         1          ...           1              \     *)
(*                    |      (a 0 0)       ...      (a 0 (n - 1))       |     *)
(*                    |    (a 0 0 ^+ 2)    ...    (a 0 (n - 1) ^+ 2)    |     *)
(*                    |        ...                      ...             |     *)
(*                    \ (a 0 0 ^+ (m - 1)) ... (a 0 (n - 1) ^+ (m - 1)) /     *)
(*                 := \matrix_(i < m, j < n) a 0 j ^+ i.                      *)
```

**Review by CohenCyril — CHANGES_REQUESTED** [review]
I took the liberty to alter a little bit the description, please integrate, fix anything I might have done wrong and rebase.

File: mathcomp/algebra/matrix.v (hunk 2 above)
Comment (yoshihiro503) [reply mathcomp/algebra/matrix.v]: Thank you for the correction.  I have imported the commits and organized the history.

Comment (CohenCyril) [reply mathcomp/algebra/matrix.v]: It seems that the documentation header went missing ...

Comment (yoshihiro503) [reply mathcomp/algebra/matrix.v]: I had erased it by mistake. It is okay now.

**Review by CohenCyril — APPROVED** [review]
Great

**Comment by CohenCyril** [comment]
Thank you @yoshihiro503
